US08183380B2
N-Cyclopropyl-N′-{2-[(1R)-2,3-dihydro-1H-inden-1-ylamino]quinolin-6-yl}sulfamide
The title compound was prepared in accordance with the general method described in example 66 from cyclopropylsulfamoylchloride and (R)—N2-indan-1-yl-quinoline-2,6-diamine; MS: m/e=395.6 (M+H+).

reactant | cyclopropylsulfamoylchloride | C1(CC1)NS(=O)(=O)Cl | C3H6ClNO2S
reactant | (R)—N2-indan-1-yl-quinoline-2,6-diamine | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H17N3
product | N-Cyclopropyl-N′-{2-[(1R)-2,3-dihydro-1H-inden-1-ylamino]quinolin-6-yl}sulfamide | C1(CC1)NS(=O)(=O)NC=1C=C2C=CC(=NC2=CC1)N[C@@H]1CCC2=CC=CC=C12 | C21H22N4O2S
